US07264790B2
Ethanol (70 mL) was added with 12-bromododecanoic acid (4.8 g) and 2,4,6-triiodophenol (9.1 g) and the mixture was refluxed for dissolution. The solution was added with potassium hydroxide (2.2 g) and stirred for 12 hours. The precipitates obtained were separated by filtration, washed with ethanol and added with chloroform and 1 N hydrochloric acid to conduct extraction with chloroform twice. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed, and the resulting residue was purified by silica gel column chromatography to obtain 12-(2,4,6-triiodophenoxy)dodecanoic acid (7.0 g, yield: 60%). In the same manner as the synthetic method of 12-(2,4,6-triiodophenoxy)dodecanoic acid, 16-(2,4,6-triiodophenoxy)hexadecanoic acid was synthesized from 16-bromohexadecanoic acid.

reactant | 12-bromododecanoic acid | 4.8 g | BrCCCCCCCCCCCC(=O)O | C12H23BrO2
reactant | 2,4,6-triiodophenol | 9.1 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium hydroxide | 2.2 g | [OH-].[K+]
solvent | Ethanol | 70 mL | C(C)O | C2H6O
product | 12-(2,4,6-triiodophenoxy)dodecanoic acid | 7.0 g, yield: 60% | IC1=C(OCCCCCCCCCCCC(=O)O)C(=CC(=C1)I)I | C18H25I3O3
